US07304062B2
A 22-L 4-neck flask was equipped with a thermometer/thermocouple, addition funnel, overhead stirring apparatus, nitrogen inlet, and cooling bath. The flask was charged with 4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyric acid (1250 g, 4.247 moles), ethyl acetate (11,250 mL) and DMF (16.4 mL), and the resulting mixture was stirred to dissolve solids. Oxalyl chloride (426 mL, 4.88 moles, 1.15 eq) was added dropwise to the reaction mixture over 45 min, using a water bath to keep the temperature below 30° C. The reaction mixture was then concentrated in vacuo to remove both the solvent and excess oxalyl choride to afford crude 4-[4-(1-ethoxycarbonyl-1-methylethoxy)phenyl]butyric acid chloride. A separate 22-L 4-neck flask was equipped with a thermometer/thermocouple, addition funnel, nitrogen inlet, overhead stirring apparatus, and cooling bath. The flask was charged with 1-(4-methylphenylmethyl)hydrazine-carboxamide methanesulfonate (1169 g, 4.247 moles, 1 eq.), ethyl acetate (8750 mL), and pyridine (790 mL, 9.77 moles, 2.3 eqs.). The contents of the flask were cooled to 0-5° C. The crude acid chloride was dissolved in ethyl acetate (1000 mL) and added dropwise to the mixture containing 1-(4-methylphenylmethyl)hydrazinecarboxamide methanesulfonate over 20 min, while maintaining the pot temperature below 25° C. The resulting mixture was stirred at ambient temperature for 1 h, then (±)-camphorsulfonic acid (1973 g, 8.494 moles, 2 eq) was added. The flask contents were then heated to reflux for 16 h. The reaction was cooled to 20° C. and transferred into a flask containing 1N HCl (7500 mL). After stirring, the layers were separated and the organic layer was washed with saturated Na2CO3 solution (7500 mL) and water (1000 mL)), then dried over MgSO4. The ethyl acetate solution was transferred to a 4-neck flask equipped with a condenser, nitrogen inlet, thermometer/thermocouple, and a heating mantle. The flask was charged with Amberlyst-15 resin (1975 g) and the mixture was heated to reflux for 1 h. After cooling to 20° C., the material was filtered to remove the resin and the resin was washed with ethyl acetate (2×2000 mL). The filtrate was concentrated in vacuo to afford a tan solid. MTBE (5000 mL) was added to the crude material and the mixture warmed to 45-50° C. until all solids were dissolved. While slowly rotating the flask, the solution was allowed to cool, whereupon crystallization occurred. The slurry was cooled to 0-5° C. for 1 hour, filtered, rinsed with cold MTBE (1500 mL) and dried in vacuo at 45° C. to afford the title compound as a white solid (1027 g, 55.2%). 1H NMR (500 MHz, DMSO-d6) δ 1.14 (t, 3 H), 1.47 (s, 6 H), 1.76, (m, 2 H), 2.26 (t, 2 H), 2.49 (t, 2 H), 3.55 (s, 3 H), 4.15 (q, 2 H), 6.69 (d, 2 H), 7.05 (d, 2 H).). 13C NMR (CDCl3) δ 14.0, 21.0, 25.3, 26.1, 28.1, 34.1, 48.3, 61.2, 79.0, 119.3, 127.8, 128.1, 129.0, 129.3, 133.2, 134.8, 137.5, 147.2, 148.3, 153.6, 155.8, 174.3.

reactant | 4-[4-(1-Ethoxycarbonyl-1-methylethoxy)phenyl]butyric acid | 4.247 moles, 1250 g | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)O)C | C16H22O5
reactant | ethyl acetate | 11,250 mL | C(C)(=O)OCC | C4H8O2
reactant | Oxalyl chloride | 4.88 moles, 426 mL, 1.15 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | 16.4 mL | CN(C)C=O | C3H7NO
product | 4-[4-(1-ethoxycarbonyl-1-methylethoxy)phenyl]butyric acid chloride | C(C)OC(=O)C(C)(OC1=CC=C(C=C1)CCCC(=O)Cl)C | C16H21ClO4
